US05250527
Sodium nitrite (15.3 g) was added to a stirred solution of 3-amino-2-picoline (20 g) in 40% fluoroboric acid (215 ml) at -5° to -10°. The mixture was stirred for 2 hours at -10° followed by a further 2 hours at room temperature, after which time, the solution was basified (NaOH) and extracted with dichloromethane. The extracts were back-washed with water (pH 6 HCl) to remove some unreacted amine and, after drying (K2CO3), m-chloroperbenzoic acid (35.7 g) was added and the mixture allowed to stand for 16 hours. Ammonia gas was passed through the solution and the precipitated benzoate salts filtered off. The filtrate was evaporated to dryness to give 2-methyl-3-fluoropyridine-N-oxide (13.36 g) m.p. softens 55° melts 80°.

reactant | Sodium nitrite | 15.3 g | N(=O)[O-].[Na+]
reactant | 3-amino-2-picoline | 20 g | NC=1C(=NC=CC1)C | C6H8N2
reactant | NaOH | [OH-].[Na+]
reactant | fluoroboric acid | 215 ml | F[B-](F)(F)F.[H+]
product | 2-methyl-3-fluoropyridine-N-oxide | 13.36 g | CC1=[N+](C=CC=C1F)[O-] | C6H6FNO
